US04618677
The procedure described in Example 2 was followed, using 0.4 g of n-hexyl isocyanate, 1.0 g of 3-(4-cinnamylpiperazin-1-yl)propanethiol dihydrochloride, 0.6 g of triethylamine and 50 ml of methylene chloride, to give 0.44 g (31% of theory) of N-(n-hexyl)-S-[3-(4-cinnamylpiperazin-1-yl)propyl]thiocarbamate dihydrochloride as a white crystalline solid, M.p. 251°-253° C.

reactant | n-hexyl isocyanate | 0.4 g | C(CCCCC)N=C=O | C7H13NO
reactant | 3-(4-cinnamylpiperazin-1-yl)propanethiol dihydrochloride | 1.0 g | Cl.Cl.C(C=CC1=CC=CC=C1)N1CCN(CC1)CCCS
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(n-hexyl)-S-[3-(4-cinnamylpiperazin-1-yl)propyl]thiocarbamate dihydrochloride | 0.44 g, 31% | Cl.Cl.C(CCCCC)NC(O)=SCCCN1CCN(CC1)CC=CC1=CC=CC=C1 | InChI=1S/C23H39N3OS.2ClH/c1-2-3-4-8-14-24-23(27)28-21-10-16-26-19-17-25(18-20-26)15-9-13-22-11-6-5-7-12-22;;/h5-7,9,11-13,24,27-28H,2-4,8,10,14-21H2,1H3;2*1H
